2192-04-01 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2192-3-31**] 10:41 PM
 EKG - At [**2192-3-31**] 10:57 PM
   Admitted from ED, weaned down on levo to 0.1mcg/kg/min
   Pt comfortable, sleeping, denying abd pain
   Allergies:
   Vancomycin
   Redman Syndrome
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-3-31**] 10:50 PM
   Fluconazole - [**2192-3-31**] 11:00 PM
   Acyclovir - [**2192-4-1**] 12:00 AM
   Metronidazole - [**2192-4-1**] 12:00 AM
   Ceftriaxone - [**2192-4-1**] 12:45 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-3-31**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2192-4-1**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2192-4-1**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 50 (50 - 67) bpm
   BP: 108/56(69) {101/49(62) - 137/70(82)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
    CVP: 9 (2 - 12)mmHg
   CO/CI (Fick): (47.6 L/min) / (28 L/min/m2)
   SvO2: 95%
   Total In:
                                                                    199 mL
                                                                  1,252 mL
   PO:
                                                                     50 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    149 mL
                                                                  1,102 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                  1,080 mL
   Urine:
                                                                    400 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -201 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   GEN:NAD, sleeping comfortably
   HEENT: no LN, supple neck, R subclavian
   CV: RR mildly brady, no m/r/g
   RESP: CTAB no w/r
   ABD: soft, NT/ND/NABS
   EXTR: no c/c/e
   Labs / Radiology
   135 K/uL
   11.1 g/dL
   165 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.9 mEq/L
   12 mg/dL
   114 mEq/L
   140 mEq/L
   33.1 %
   13.1 K/uL
        [image002.jpg]
                             [**2192-3-31**]  08:30 PM
                             [**2192-3-31**]  11:54 PM
                             [**2192-4-1**]  05:41 AM
   WBC
   13.2
   14.3
   13.1
   Hct
   35.4
   33.6
   33.1
   Plt
   148
   141
   135
   Cr
   1.2
   1.2
   1.0
   TropT
   0.40
   Glucose
   [**Telephone/Fax (3) 1653**]
   Other labs: CK / CKMB / Troponin-T:312/30/0.40, ALT / AST:35/63, Alk
   Phos / T Bili:41/0.3, Amylase / Lipase:/13, Differential-Neuts:86.0 %,
   Band:9.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.9 g/dL, LDH:255 IU/L, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:3.5
   mg/dL
   Fluid analysis / Other labs:
   1st set 12pm [**3-31**]:
   CK 43 & Trop <0.01
   2nd Set 8pm [**3-31**]:
   CK 312/CKMB 30/Trop 0.40
   3rd Set 4am [**4-1**]:
   CK 312/CKMB      /Trop
   Imaging: CXR from [**4-1**]
   Microbiology: Blood & Urine Cx pending from [**3-31**]
   Assessment and Plan
   62F s/p allogenic BMT [**3-23**] for erythroleukemia/MDS, admitted with
   fever, diarrhea, and hypotension.
   .
   # hypotension - concerning for septic picture given fever, wbc
   elevation, bandemia & diarrhea.  Pt has not had any recurrence of
   symptoms in house & CTabd/pelvis without pathology.  Ddx also includes
   hypovolemic [**2-18**] diarrhea, ACS with + trop though m more likely [**2-18**]/
   demand ischemia, adrenal insufficiency.  BP responding well to levo
   gtt, though drops when off.
   - no pulmonary symptoms to suggest flu.
   - f/u stool cultures (cdiff, yersina, campy, vibrio, norovirus,
   rotavirus) if has stool.
   - f/u bcx, ucx.
   - f/u CMV VL (low suspicion of fungal)
   - continue empiric Vanc/Ceftriaxone/Flagyl
   - on prednisone 5mg chronic, cortisol 9 here, [**Last Name (un) 45**] stim inappropriate
   response?
   - continue dexamethasone 4mg TID
   - +trop, more likely [**2-18**] demand ischemia in setting of
   sepsis/hypotension/tachycardia
   -  ID consult in AM per primary onc attg.
   .
   # n/v/diarrhea -no recent abx.  Ddx includes bacterial vs viral
   infection vs GVHD.  CT abd/pelvis without evidence of colitis or SBO.
   LFTs unremarkable.
   - check stool cultures (viral, campy, salmonella, cdiff, noro, o&p)
   - advance sips/clears
   - no recent medication changes.
   - consider flex sig for sigmoid biopsy if not improving to r/o GVHD.
   - avoid zofran for n/v given QTc 500s, use ativan instead.
   .
   # ARF
 presented with Creatinine of 1.4 (baseline 0.9-1.1)  & non gap
   acidosis likely [**2-18**] diarrhea, bicarbonate loss & NS resuscitation.
   Creatinine trended down to baseline today with IVF
   - hyperchloremic likely [**2-18**] IVF NS, use LR for IVF.
   - continue IVF hydration, goal CVP > 10.
   - am vanc level 9.9, will change to 1gram q12hr
   - lactate WNL today
   .
   # ONC - dx with erythroleukemia evolving from MDS '[**80**], s/p allogeneic
   BMT from an HLA matched sibling donor on [**2191-4-14**], c/b mild GVHD of
   mouth, doing well over past year.
   - continue routine prophylaxis with acyclovir, fluconazole (consider
   d/c'ing fluc as can prolong QTc).
   - pt on pentamadine for pcp prophylaxis, next dose due [**4-5**].
   - continue dexamethasone for now
   .
   # cardiac - no chest pain, sob, though n/v could represent atypical
   presentation of acs.  +trop on arrival to ED, +CK, though no EKG
   changes suggestive of ischemia, likely [**2-18**] demand ischemia in setting
   of hypotension and tachycardia.  Pt with sinus bradycardia & new
   prolonged QT.  F/U repeat EKG this am.
   - f/u am CE
   - aspirin 325mg x 1 now.
   - hold bb in setting of hypotension
   - continue telemetry & replacing Ca/Mg/K
   - avoid QT prolonging meds.
   - consider d/c fluc as can prolong QTc also.
   - consider TTE if CE trending up
   .
   ## hyperlipidemia: not currently on statin.  recruited to ED statin in
   sepsis trial, so receiving study drug.
   - consider starting statin in AM if CE trending up.
   - per [**Doctor Last Name **] -> statin vs placebo in sepsis, attenuate il-6, pt is
   receiving study drug (blinded).  pt may get cpk's ordered.
   # GERD - continue PPI [**Hospital1 **].
   .
   #DM2: diet controlled at home, will cover here with SSI.
   - RISS
   .
   # FEN: consider ADAT
   - replacement scales for lytes
   ICU Care
   Nutrition: sips
   Glycemic Control:
   Lines: 18 Gauge - [**2192-3-31**] 10:39 PM
   Presep Catheter - [**2192-3-31**] 10:41 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  PPI
   Code status: Full code
   Disposition:

2192-04-02 06:59:00 Physician Resident Progress Note
Chief Complaint: 62F h/o AML (erythroleukemia s/p sibling-matched BMT
   [**3-23**] c/b gvhd mouth, colon), who was in her usoh until [**3-26**], when she
   awoke in the AM and had ~6 episodes of diarrhea (loose, non-bloody, not
   watery).  her symptoms resolved completly by lunch and did not recur
   until [**3-30**] ~9AM-12PM, when she had ~[**3-20**] more episodes of similar
   diarrhea.  She reports recurrence again at 9PM.  On the morning of
   [**3-31**], she notes increasing frequency of diarrhea, and while on toilet,
   felt LH/dizzy, and "my eyes rolled back in my head" but no frank
   syncope or head trauma.  EMS was activated, and she was brought to the
   ED.
   .
   She denies any recent medication changes, antibiotics, shellfish or
   seafood exposure (haddock x 1 last week), no new water sources, no
   camping, no bloody stools.
   .
   ROS otherwise negative for fevers, chills, ns, cough, sore throat,
   sinus congestion, body aches, ha/neck stiff, rash, n/v, abdominal pain
   (other than mild cramping x 1 friday night), dysuria, melena.
   .
   Pt presented to the ED with VS: 98.6  110  88/64  16  96%2L.  No
   complaints of cp/sob though did note abdominal pain and diarrhea. given
   fever (103 rectal) and low BP (down to 59/38), was started on sepsis
   protocol.  given 6L IVF, started on [**Last Name (un) **] gtt, lactate up to 2.4, given
   decadron 10 iv, flagyl, ceftazadime at ~1250, and vancomycin 1gm @
   1715.  also given zofran, humalog.  BP up to 139/57 on levo gtt 0.4, so
   weaned down to 0.16. pt mentating throughout.
   .
   Given ongoing pressor requirement, pt transferred to [**Hospital Unit Name 44**] for further
   w/o of sepsis.
   24 Hour Events:
   -- patient w/ elevated cardiac enzymes, trop peak of 1.12.  No active
   ischemic changes on EKG.  Cards curbsided, who agreed that
   anticoagulation not indicated and no emergent TTE for little concern of
   cardiogenic shock.  Enzymes trending down.
   -- weaned off levophed.  Was hypotensive at 2am w/ SBP of 90.  Was
   bolused w/ 500cc, but remained hypotensive to SBP of 78.  Additional
   500cc bolus give, w/ pressures of 85.  Patient as asx throughout.  CVP
   of 9.  Restarted levophed at 0.1 w/ adequate response.  BCx sent.
   -- ID saw patient at request of BMT.  Agree w/ current manegment,
   recommending switching CTX to cipro if clinically worsens and QT okay.
   Allergies:
   Vancomycin
   Redman Syndrome
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-3-31**] 10:50 PM
   Fluconazole - [**2192-4-1**] 10:00 PM
   Ceftriaxone - [**2192-4-2**] 12:00 AM
   Acyclovir - [**2192-4-2**] 12:00 AM
   Metronidazole - [**2192-4-2**] 12:00 AM
   Vancomycin - [**2192-4-2**] 01:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-4-2**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-4-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, NO BM
   Genitourinary: Dysuria
   Flowsheet Data as of  [**2192-4-2**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 59 (50 - 78) bpm
   BP: 115/51(66) {77/36(46) - 124/63(75)} mmHg
   RR: 17 (0 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
    CVP: 13 (5 - 15)mmHg
   CO/CI (Fick): (30.8 L/min) / (18.1 L/min/m2)
   SvO2: 96%
   Total In:
                                                                  3,883 mL
                                                                    488 mL
   PO:
                                                                  1,187 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,696 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  4,425 mL
                                                                    840 mL
   Urine:
                                                                  4,425 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -542 mL
                                                                   -352 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), hyperdynamic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): PPT, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   113 K/uL
   10.5 g/dL
   154 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   13 mg/dL
   117 mEq/L
   144 mEq/L
   30.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2192-3-31**]  08:30 PM
                             [**2192-3-31**]  11:54 PM
                             [**2192-4-1**]  05:41 AM
                             [**2192-4-1**]  12:22 PM
                             [**2192-4-1**]  02:42 PM
                             [**2192-4-2**]  04:47 AM
   WBC
   13.2
   14.3
   13.1
   13.1
   12.6
   Hct
   35.4
   33.6
   33.1
   30.2
   30.4
   Plt
   148
   141
   135
   130
   113
   Cr
   1.2
   1.2
   1.0
   0.9
   0.9
   0.9
   TropT
   0.40
   1.12
   0.81
   Glucose
   [**Telephone/Fax (3) 1662**]69
   200
   154
   Other labs: CK / CKMB / Troponin-T:199/41/0.81, ALT / AST:35/63, Alk
   Phos / T Bili:41/0.3, Amylase / Lipase:/13, Differential-Neuts:88.7 %,
   Band:0.0 %, Lymph:8.3 %, Mono:2.8 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:255 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Fluid analysis / Other labs: CK: 312  MB: 57  MBI: 18.3  Trop-T: 1.12
   CK: 78  MB: Pnd  Trop-T: Pnd
   Imaging: Right IJ catheter terminates in the superior vena cava.  There
   is a new patchy
   opacity at the left lung base which could represent atelectasis.  Right
   lung
   is clear. Cardiomediastinal silhouette is unremarkable.
   Microbiology: Legionella Urinary Antigen -PENDING
   CMV Viral Load-PENDING
   Blood Culture, Routine-PENDING
   URINE CULTURE-FINAL ([**3-31**])
   ECG: Resolution of QT prolongation.  No evidence of AV nodal blockade.
   Assessment and Plan
   62F s/p allogenic BMT [**3-23**] for erythroleukemia/MDS, adm with fever,
   diarrhea, and hypotension.
   # Hypotension - concerning for septic picture given fever, wbc
   elevation, bandemia & diarrhea.  Pt has not had any recurrence of
   diahrea symptoms in house & CTabd/pelvis without pathology.  Ddx also
   includes hypovolemic [**2-18**] diarrhea, ACS with + trop (though more likely
   [**2-18**]/ demand ischemia,) adrenal insufficiency likely contributed to
   profound hypotension on adm given marginal [**Last Name (un) 45**] stim this am.  Nothing
   on exam or vital monitoring sugest cargiogenic shock.  Needed to
   restarted levophed overnight as was not responsive to fluid challenge.
   Now almost weened off.
   - f/u stool cultures (cdiff, yersina, campy, vibrio, norovirus,
   rotavirus) if has stool.
   - f/u rapid viral screen & influenza DFA
   - f/u Blood culture, Urine Cx negative.
   - f/u CMV VL (low suspicion of fungal)
   - continue empiric Vanc/Ceftriaxone/Flagyl --> ceftiaxone given w/
   concern of prolonged TQ on admission.
   - Hydrocortizone 100mg TID given low [**Last Name (un) 45**] stim, given continued
   hypotension, continue at dose, w/ aggressive taper once resolved.
   -  ID requested by primary onc attg, no change in current plan.  Will
   switch to cipro given persistent hypotension and unresolved
   leukocytosis.
   -  If stool Cx negative, could consider colonooscopy to evaluate for
   GVHD.
   - attempt to taper levophed again today.  Adequate CVP, so do no
   suspect is an isue of hypovolumeia, but bolus w/ fluids PRN.
   # N/V/Diarrhea-no recent abx.  Ddx includes bacterial vs viral
   infection vs GVHD.  CT abd/pelvis without evidence of colitis or SBO.
   LFTs unremarkable.
   - f/u stool cultures (viral, campy, salmonella, cdiff, noro, o&p) once
   has BM
   - continue antibiotics given continued hypotension
   - advance clears to regular
   - consider flex sig for sigmoid biopsy if not improving to r/o GVHD.
   - ativan prn nausea
   # ARF
 presented with Creatinine of 1.4 (baseline 0.9-1.1) & non gap
   acidosis likely [**2-18**] diarrhea, bicarbonate loss & NS resuscitation.
   Creatinine trended down to baseline today with IVF. Hyperchloremia
   likely 2/2 NS, will use LR for IVF.
   - IVF w/ goal CVP of 10
   - vanc redosed to q12hr
   - lactate WNL yesterday
   # ONC - dx with erythroleukemia evolving from MDS '[**80**], s/p allogeneic
   BMT from an HLA matched sibling donor on [**2191-4-14**], c/b mild GVHD of
   mouth, doing well over past year.
   - continue PPx with acyclovir, fluconazole, pentamadine for pcp
   prophylaxis, next dose due [**4-5**].
   - continue Hydrocortizone 100mg TID given marginal [**Last Name (un) 45**] stim yesterday,
   wean as possible
   # cardiac - no chest pain/sob, though n/v could represent atypical
   presentation of acs.  +trop on arrival to ED w/ ST depression in
   setting of hypotension/tachycardia.   CE continued to trend upwards w/
   peak trop 1.12, now trending down.  Cards curbsided, who agreed little
   susicison of cardiogenic shock or ACS that would require
   anticoagulation.  Pt with sinus bradycardia & new prolonged QT.  Repeat
   EKG in am, QT in 480s, sinus brady.  Patient essentially failed
   physiologic stress test, and should have out patient cardiac follow up
   w/ EST.
   - decrease ASA from 325mg to 81mg
   - continue telemetry & replacing Ca/Mg/K
   - avoid QT prolonging meds if possible
   - f/u TTE this am
   .## hyperlipidemia: not currently on statin.  recruited to ED statin in
   sepsis trial, so receiving study drug.
   # GERD - continue PPI [**Hospital1 **].
   #DM2: diet controlled at home, will cover here with SSI.
   - RISS
   .# FEN: consider ADAT
   - replacement scales for lytes
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2192-3-31**] 10:39 PM
   Presep Catheter - [**2192-3-31**] 10:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-04-02 10:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Taken off Levophed.
   Overnight, BP dropped to 90 [**First Name9 (NamePattern2) 1666**]
   [**Last Name (un) **] stim done [**4-1**]
   MEDS reviewed
   Allergies:
   Vancomycin
   Redman Syndrome
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-3-31**] 10:50 PM
   Fluconazole - [**2192-4-1**] 10:00 PM
   Ceftriaxone - [**2192-4-2**] 12:00 AM
   Acyclovir - [**2192-4-2**] 12:00 AM
   Metronidazole - [**2192-4-2**] 12:00 AM
   Vancomycin - [**2192-4-2**] 08:45 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-4-2**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-4-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2192-4-2**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 65 (56 - 78) bpm
   BP: 120/59(73) {77/36(46) - 130/63(76)} mmHg
   RR: 18 (15 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 13 (5 - 15)mmHg
   CO/CI (Fick): (30.8 L/min) / (18.1 L/min/m2)
   SvO2: 96%
   Total In:
                                                                  3,883 mL
                                                                    794 mL
   PO:
                                                                  1,187 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,696 mL
                                                                    674 mL
   Blood products:
   Total out:
                                                                  4,425 mL
                                                                    980 mL
   Urine:
                                                                  4,425 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -542 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Eyes / Conjunctiva: No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   113 K/uL
   154 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   13 mg/dL
   117 mEq/L
   144 mEq/L
   30.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2192-3-31**]  08:30 PM
                             [**2192-3-31**]  11:54 PM
                             [**2192-4-1**]  05:41 AM
                             [**2192-4-1**]  12:22 PM
                             [**2192-4-1**]  02:42 PM
                             [**2192-4-2**]  04:47 AM
   WBC
   13.2
   14.3
   13.1
   13.1
   12.6
   Hct
   35.4
   33.6
   33.1
   30.2
   30.4
   Plt
   148
   141
   135
   130
   113
   Cr
   1.2
   1.2
   1.0
   0.9
   0.9
   0.9
   TropT
   0.40
   1.12
   0.81
   0.39
   Glucose
   [**Telephone/Fax (3) 1662**]69
   200
   154
   Other labs: CK / CKMB / Troponin-T:78/16/0.39, ALT / AST:35/63, Alk
   Phos / T Bili:41/0.3, Amylase / Lipase:/13, Differential-Neuts:88.7 %,
   Band:0.0 %, Lymph:8.3 %, Mono:2.8 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:255 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Fluid analysis / Other labs: [**Last Name (un) **] stim test - 3 to 12
   Imaging: CXR [**4-1**] reviewed personally
   Assessment and Plan
   62 yo woman with with presyncope, found to be hypotensive in setting of
   diarrhea, possible adrenal insufficiency vs sepsis.
   1. Hypotension vs sepsis: diarrhea/hypovolemia as most likely primary
   etiology exacerbated by sepsis vs AI. Responsed well to initial fluid
   resusitation but overnight was bolused and remained negative overall.
   Good urine output.  Has low baseline cortisol of 3, and did not respond
   to cosyntropin as well - switch to hydrocortisone as stress dose. Wean
   levophed today as tolerated.
   2. Diarrhea/fever: Now on CTX/flagyl/vanc (held fluoroquinolones given
   QT-prologation). No other sources of fever for the moment.  F/u
   cultures, stool studies to be sent, check influenza DFA. ID input
   appreciated.
   3. cardiac ischemia:  troponins trending down, no evidence for acute
   coronary syndrome.  Likely demand ischemia with leak. Getting aspirin.
   4. ARF: Cr improving in setting of adequate fluid resusitation.
   5. Non-gap acidosis: Likely due to saline resuscitation, vomiting
   6. On simvastatin vs placebo in sepsis study. Call [**First Name4 (NamePattern1) 831**] [**Last Name (NamePattern1) 313**] if any
   concerns.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2192-3-31**] 10:39 PM
   Presep Catheter - [**2192-3-31**] 10:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes critical care time
   Patient is critically ill

2192-04-03 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ok off pressors since 10am
   - ctx changed to cipro
   - TTE - unremarkable
   - some facial tightness and flushing following vanc infusion
   Allergies:
   Vancomycin
   Redman Syndrome
   Last dose of Antibiotics:
   Vancomycin - [**2192-4-2**] 08:21 PM
   Ciprofloxacin - [**2192-4-2**] 10:00 PM
   Fluconazole - [**2192-4-2**] 10:00 PM
   Ceftriaxone - [**2192-4-3**] 12:00 AM
   Metronidazole - [**2192-4-3**] 12:00 AM
   Acyclovir - [**2192-4-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-4-2**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2192-4-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Flowsheet Data as of  [**2192-4-3**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 59 (59 - 80) bpm
   BP: 96/69(74) {88/42(53) - 130/69(76)} mmHg
   RR: 16 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
    CVP: 1 (1 - 12)mmHg
   Total In:
                                                                  2,739 mL
                                                                    114 mL
   PO:
                                                                  1,220 mL
   TF:
   IVF:
                                                                  1,519 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    650 mL
   Urine:
                                                                  2,200 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    539 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): PP,T, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   107 K/uL
   10.0 g/dL
   106 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.4 mEq/L
   12 mg/dL
   114 mEq/L
   144 mEq/L
   29.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2192-3-31**]  08:30 PM
                             [**2192-3-31**]  11:54 PM
                             [**2192-4-1**]  05:41 AM
                             [**2192-4-1**]  12:22 PM
                             [**2192-4-1**]  02:42 PM
                             [**2192-4-2**]  04:47 AM
                             [**2192-4-3**]  04:37 AM
   WBC
   13.2
   14.3
   13.1
   13.1
   12.6
   6.7
   Hct
   35.4
   33.6
   33.1
   30.2
   30.4
   29.5
   Plt
   148
   141
   135
   130
   113
   107
   Cr
   1.2
   1.2
   1.0
   0.9
   0.9
   0.9
   0.8
   TropT
   0.40
   1.12
   0.81
   0.39
   Glucose
   [**Telephone/Fax (3) 1662**]69
   200
   154
   106
   Other labs: CK / CKMB / Troponin-T:78/16/0.39, ALT / AST:33/19, Alk
   Phos / T Bili:37/0.3, Amylase / Lipase:/13, Differential-Neuts:88.7 %,
   Band:0.0 %, Lymph:8.3 %, Mono:2.8 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:274 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Imaging: TTE:  Normal biventricular cavity sizes with preserved global
   and regional biventricular systolic function. No structural cardiac
   cause of syncope identified.
   Compared with the prior report (images unvailable for review) of
   [**2191-6-6**], the findings are similar.
   Microbiology: FECAL CULTURE (Pending):  CAMPYLOBACTER CULTURE
   (Pending):
   OVA + PARASITES (Pending):
   FECAL CULTURE - R/O VIBRIO (Pending):
   FECAL CULTURE - R/O YERSINIA (Pending):
    FECAL CULTURE - R/O E.COLI 0157:H7 (Pending):
   CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Pending):
   VIRAL CULTURE (Pending):
   DIRECT INFLUENZA A ANTIGEN TEST (Final [**2192-4-2**]):
         Negative for Influenza A viral antigen.
    DIRECT INFLUENZA B ANTIGEN TEST (Final [**2192-4-2**]):
         NEGATIVE FOR INFLUENZA B VIRAL ANTIGEN.
   Assessment and Plan
   62F s/p allogenic BMT [**3-23**] for erythroleukemia/MDS, adm with fever,
   diarrhea, and hypotension.
   # Sepsis - concerning for septic picture given fever, wbc elevation,
   bandemia & diarrhea.  Unclear source.  Pt has not first episode of
   diahrea symptoms in house & CTabd/pelvis without pathology.  Ddx also
   includes hypovolemic [**2-18**] diarrhea, ACS with + trop (though more likely
   [**2-18**]/ demand ischemia,) adrenal insufficiency likely contributed to
   profound hypotension on adm given marginal [**Last Name (un) 45**] stim this am.  Nothing
   on exam or vital monitoring sugest cargiogenic shock.  Patient weened
   off levophed yesterday morning and BP has tolerated well.  WBC has
   resolved to normal.  Patient has been afebile
   - f/u stool cultures (cdiff, yersina, campy, vibrio, norovirus,
   rotavirus) sent yesterday
   - f/u rapid viral screen culture /  influenza DFA negative
   - f/u Blood culture, Urine Cx negative, urine legionella negative
   - f/u CMV VL (low suspicion of fungal)
   - continue empiric Vanc/cipro/Flagyl, d/c tomorrow if stool cx negative
   - Hydrocortizone 100mg TID given low [**Last Name (un) 45**] stim, as no longer
   hypotensive, will begin to taper [**Last Name (un) 1330**]
   -  ID requested by primary onc attg, no change in current plan
   -  If stool Cx negative, could consider colonooscopy to evaluate for
   GVHD.
   - fluid boluses PRN for hypotension.
   # N/V/Diarrhea-no recent abx.  Ddx includes bacterial vs viral
   infection vs GVHD.  CT abd/pelvis without evidence of colitis or SBO.
   LFTs unremarkable.
   - f/u stool cultures (viral, campy, salmonella, cdiff, noro, o&p) once
   has BM
   - tolerating regular diet
   - consider flex sig for sigmoid biopsy if not improving to r/o GVHD.
   - ativan prn nausea
   # ARF
 presented with Creatinine of 1.4 (baseline 0.9-1.1) & non gap
   acidosis likely [**2-18**] diarrhea, bicarbonate loss & NS resuscitation.
   Creatinine trended down to baseline with IVF. Hyperchloremia likely [**2-18**]
   NS, will use LR for IVF.
   - IVF w/ goal CVP of 10
   - vanc redosed to q12hr
   - lactate WNL yesterday
   # ONC - dx with erythroleukemia evolving from MDS '[**80**], s/p allogeneic
   BMT from an HLA matched sibling donor on [**2191-4-14**], c/b mild GVHD of
   mouth, doing well over past year.
   - continue PPx with acyclovir, fluconazole, pentamadine for pcp
   prophylaxis, next dose due [**4-5**].
   - continue Hydrocortizone 100mg TID given marginal [**Last Name (un) 45**] stim yesterday,
   begin taper [**Last Name (un) 1330**]
   # cardiac - no chest pain/sob, though n/v could represent atypical
   presentation of acs.  +trop on arrival to ED w/ ST depression in
   setting of hypotension/tachycardia.   CE continued to trend upwards w/
   peak trop 1.12, now trending down.  Cards curbsided, who agreed little
   susicison of cardiogenic shock or ACS that would require
   anticoagulation.  Pt with sinus bradycardia & new prolonged QT.  Repeat
   EKG in am, QT in 480s, sinus brady.  Patient essentially failed
   physiologic stress test, and should have out patient cardiac follow up
   w/ EST.  TTE unchanged.
   - decrease ASA from 325mg to 81mg
   - continue telemetry & replacing Ca/Mg/K
   - avoid QT prolonging meds if possible
   .## hyperlipidemia: not currently on statin.  recruited to ED statin in
   sepsis trial, so receiving study drug.
   # GERD - continue PPI [**Hospital1 **].
   #DM2: diet controlled at home, will cover here with SSI.
   - RISS
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2192-3-31**] 10:39 PM
   Presep Catheter - [**2192-3-31**] 10:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-04-03 10:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off pressors since yesterday AM
   Remained afeb
   TTE done
   Off O2
   Vanco/Cipro/CFTX/Flagyl
   Allergies:
   Vancomycin
   Redman Syndrome
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-4-2**] 10:00 PM
   Fluconazole - [**2192-4-2**] 10:00 PM
   Ceftriaxone - [**2192-4-3**] 12:00 AM
   Acyclovir - [**2192-4-3**] 12:00 AM
   Metronidazole - [**2192-4-3**] 12:00 AM
   Vancomycin - [**2192-4-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-4-2**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2192-4-3**] 12:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, Loose stool BM
   Flowsheet Data as of  [**2192-4-3**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 60 (59 - 80) bpm
   BP: 106/54(65) {88/42(53) - 118/69(74)} mmHg
   RR: 16 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 1 (1 - 12)mmHg
   Total In:
                                                                  2,739 mL
                                                                    357 mL
   PO:
                                                                  1,220 mL
   TF:
   IVF:
                                                                  1,519 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    850 mL
   Urine:
                                                                  2,200 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    539 mL
                                                                   -493 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   107 K/uL
   106 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.4 mEq/L
   12 mg/dL
   114 mEq/L
   144 mEq/L
   29.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2192-3-31**]  08:30 PM
                             [**2192-3-31**]  11:54 PM
                             [**2192-4-1**]  05:41 AM
                             [**2192-4-1**]  12:22 PM
                             [**2192-4-1**]  02:42 PM
                             [**2192-4-2**]  04:47 AM
                             [**2192-4-3**]  04:37 AM
   WBC
   13.2
   14.3
   13.1
   13.1
   12.6
   6.7
   Hct
   35.4
   33.6
   33.1
   30.2
   30.4
   29.5
   Plt
   148
   141
   135
   130
   113
   107
   Cr
   1.2
   1.2
   1.0
   0.9
   0.9
   0.9
   0.8
   TropT
   0.40
   1.12
   0.81
   0.39
   Glucose
   [**Telephone/Fax (3) 1662**]69
   200
   154
   106
   Other labs: PT / PTT / INR:14.8/36.4/1.3, CK / CKMB /
   Troponin-T:78/16/0.39, ALT / AST:33/19, Alk Phos / T Bili:37/0.3,
   Amylase / Lipase:/13, Differential-Neuts:88.7 %, Band:0.0 %, Lymph:8.3
   %, Mono:2.8 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL,
   LDH:274 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: Echo - preserved systolic function
   Microbiology: Stool sent for culture
   DFA pending
   Urine cx and legionella Ag neg
   Assessment and Plan
   Assessment and Plan
   62 yo woman with with presyncope, found to be hypotensive in setting of
   diarrhea, possible adrenal insufficiency vs sepsis (bandemia).
   1. Hypotension vs sepsis: diarrhea/hypovolemia as most likely primary
   etiology exacerbated by possible sepsis vs AI. Responsed well to
   initial fluid resusitation and now off pressors. Good urine output.
   Has low baseline cortisol of 3, and did not respond to cosyntropin as
   well - on HC 100 TID. Will switch to pred 60 [**Hospital1 **]. Suggest rapid taper
   down to home dose of 5 mg daily.
   2. Diarrhea/fever: Now on Vanc/CTX/flagyl/Cipro. No other sources of
   fever for the moment. F/u cultures, stool studies. ID input
   appreciated. Will d/c vanc and CFTX.
   3. cardiac ischemia:  troponins trending down, no evidence for acute
   coronary syndrome.  Likely demand ischemia with leak. Getting aspirin.
   4. ARF: Cr continues to improve, likely was prerenal.
   5. Non-gap acidosis: improving.
   6. On simvastatin vs placebo in sepsis study. Please call [**First Name4 (NamePattern1) 831**] [**Last Name (NamePattern1) 313**]
   if any concerns.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines: subclav, to be removed today
   18 Gauge - [**2192-3-31**] 10:39 PM
   Presep Catheter - [**2192-3-31**] 10:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes